US07279469B2
4-(4-Cyclopropyl-piperazin-1-yl)-phenylamine:
To a solution of 1-cyclopropyl-4-(4-nitro-phenyl)-piperazine (1.24 g, 5.00 mmol) in methanol (25 mL) was added Pd/C (10%, 100 mg) and trifluoroacetic acid (1.0 mL). The mixture was stirred under 1 atm of hydrogen (balloon) overnight, filtered and concentrated. To the residue was added water and 1N aq. NaOH to adjust the PH>11. The mixture was extracted ethyl acetate, and the organic layer was dried over Na2SO4, concentrated to give the title compound (1.08 g, 100%) as a brown oil. MS (ES+): m/z=218.1.

reactant | 1-cyclopropyl-4-(4-nitro-phenyl)-piperazine | 5.00 mmol, 1.24 g | C1(CC1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H17N3O2
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-(4-Cyclopropyl-piperazin-1-yl)-phenylamine | 1.08 g, 100% | C1(CC1)N1CCN(CC1)C1=CC=C(C=C1)N | C13H19N3
